US06642229B2
Trifluoromethanesulfonic acid 2′-cyanobiphenyl-3-yl ester (0.55 g, 1.66 mmol), potassium acetate (0.49 g, 4.98 mmol) and bis(pinacolato)diboron (0.55 g, 2.16 mmol) were dissolved in 1,4-dioxane (10 ml) and the mixture degassed with N2 for 15 min. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (41 mg, 0.05 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (28 mg, 0.05 mmol) were then added and the mixture heated at 85° C. for 18 h. The mixture was cooled to ambient temperature, filtered and the filter cake washed with diethyl ester. The filtrate was evaporated to dryness and partitioned between diethyl ether (25 ml) and 1N sodium hydroxide solution (25 ml). The aqueous layer was washed with more diethyl ether then made acidic (pH 6) with 4N hydrochloric acid. The resulting solid was collected by filtration and dried in vacuo to give 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as a cream-coloured solid (430 mg, 85%): δH (400 MHz, CDCl3) 1.36 (12H, s), 7.43 (1H, ddd, J 8, 8 and 1.5), 7.48-7.57 (2H, m), 7.62 (2H, ddd, J 8, 8 and 1.5), 7.68-7.71 (1H, m), 7.74-7.77 (1H, m), 7.87-7.90 (1H, m), 7.92-7.94 (1H, m).

reactant | Trifluoromethanesulfonic acid 2′-cyanobiphenyl-3-yl ester | 1.66 mmol, 0.55 g | C(#N)C1=C(C=CC=C1)C1=CC(=CC=C1)OS(=O)(=O)C(F)(F)F | C14H8F3NO3S
reactant | potassium acetate | 4.98 mmol, 0.49 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 2.16 mmol, 0.55 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.05 mmol, 41 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.05 mmol, 28 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | 430 mg, 85% | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C=1C(=CC=CC1)C#N)C | C19H20BNO2
